US05246935
A mixture of 3,4,5-trichloroaniline (400 mg; 2 mmol) in toluene (15 ml) and phosgene (6 ml 20% in toluene; 12 mmol) was refluxed for 6 h. The solvent was removed under reduced pressure to give crude 3,4,5-trichlorophenylisocyanate. To the crude product was added 3-[4-(4-chlorophenyl) -1-piperazinyl]propanol (510 mg; 2.0 mmol) in toluene (30 ml) and refluxed for 16 h. The solvent was evaporated rated and the residue resuspended in ethyl acetate, filtered and evaporated to dryness. The residue was submitted to flash chromatography on silica gel 60 eluting with toluene/ethyl acetate (1:1) graduated to toluene/ethyl acetate (1:3). The product was taken up in ethanol, which was treated with hydrogen chloride in ether to give 730 mg of the title compound. M.p. 211°-212° C. MS (70 eV): m/z 477 (4%, M+), 254 (56), 221 (59), 209 (100), 158 (35), 138 (25), 111 (20), 70 (45).

reactant | 3,4,5-trichloroaniline | 2 mmol, 400 mg | ClC=1C=C(N)C=C(C1Cl)Cl | C6H4Cl3N
reactant | phosgene | 12 mmol, 6 ml | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 3,4,5-trichlorophenylisocyanate | ClC=1C=C(C=C(C1Cl)Cl)N=C=O | C7H2Cl3NO
